US08071584B2
1-{[(1,1-Dimethylethyl)oxy]carbonyl}-4-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid
A solution of 1.6 M tert-BuLi (1.2 mL, 1.92 mmol) was added to a solution of 1,1-dimethylethyl 7-bromo-4-fluoro-2,3-dihydro-1H-indole-1-carboxylate (260 mg, 0.92 mmol) in THF (52 mL) at −78 (bath temp). The reaction was stirred for 5 min, and dry ice (CO2) powder was added. The reaction was stirred for 10 min, and was allowed to warm slowly to room temperature. The reaction mixture was washed with EtOAc, and the organic layer was evaporated. The crude product was purified by flash chromatography, giving the title compound.

reactant | tert-BuLi | 1.92 mmol, 1.6 M, 1.2 mL | [Li]C(C)(C)C
reactant | 1,1-dimethylethyl 7-bromo-4-fluoro-2,3-dihydro-1H-indole-1-carboxylate | 0.92 mmol, 260 mg | BrC=1C=CC(=C2CCN(C12)C(=O)OC(C)(C)C)F | C13H15BrFNO2
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 52 mL | C1CCOC1 | C4H8O
product | 1-{[(1,1-Dimethylethyl)oxy]carbonyl}-4-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid | CC(C)(C)OC(=O)N1CCC2=C(C=CC(=C12)C(=O)O)F | C14H16FNO4
